Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
Admission labs:

___ 01:45PM BLOOD WBC-15.5* RBC-4.37* Hgb-14.0 Hct-41.7 
MCV-95 MCH-32.0 MCHC-33.6 RDW-15.9* RDWSD-55.5* Plt ___
___ 01:45PM BLOOD Neuts-92.9* Lymphs-1.8* Monos-4.4* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-14.41* AbsLymp-0.28* 
AbsMono-0.68 AbsEos-0.00* AbsBaso-0.04
___ 07:40AM BLOOD CRP-183.1*

___ BCx NGTD, UCx negative

___ ABI/PVR:
FINDINGS: 
 
Severe popliteal/tibial disease right greater than left.
Unable to detect right dorsalis pedis artery and very minimal 
flow detected in
the right great toe.
Noncompressible vessels in the left lower extremity.
 
On the right side, triphasic Doppler waveforms are seen in the 
femoral and
superficial femoral arteries.  Monophasic waveforms in the 
popliteal and
posterior tibial arteries.  Absent flow in the dorsalis pedis 
artery.
 
On the left side, triphasic Doppler waveforms are seen in the 
femoral and
superficial femoral arteries.  Monophasic waveforms in the 
popliteal,
posterior tibial, and dorsalis pedis arteries.
 
The right ABI is 0.55.  Noncompressible arteries on the left.
Toe brachial index of 0.09 on the right and 0.51 on the left.
Pulse volume recordings demonstrate symmetric amplitudes at the 
levels
studied.
 
IMPRESSION:
-Severe popliteal/tibial disease right greater than left.
-Unable to detect right dorsalis pedis artery and very minimal 
flow detected
in the right great toe.
-Noncompressible vessels in the left lower extremity.

___ Venous reflux study
FINDINGS: 
 
There is normal compressibility, flow, and augmentation of the 
bilateral
common femoral, femoral, and popliteal veins.  There is no 
evidence of deep
venous thrombosis.
 
Evaluation of the distal right calf is slightly limited due to 
overlying
dressing.
 
Right great saphenous vein: (Diameter / reflux)
Sapheno-femoral junction:  11 mm, without significant reflux
Proximal thigh:                  7 mm, 1.35 s
Mid-thigh:                         7 mm, 1.4 s
Knee:                              4 mm, without significant 
reflux
Calf:                                 2 mm, 1.2 s
 
Right small saphenous vein: (Diameter / reflux)
Saphenopopliteal junction: Not well visualized.
Mid calf:                           1 mm, without reflux
Distal calf:                    Not well visualized
 
Left great saphenous vein: (Diameter / reflux)
Sapheno-femoral junction:  7 mm, without reflux s
Proximal thigh:                  3 mm, without reflux s
Mid-thigh:                         4 mm, without reflux s
Knee:                            2 mm, 3.6 seconds
Proximal calf:                  4 mm, without reflux s
Mid calf:                         3 mm, without reflux
Distal calf:                    2 mm, without reflux
 
Left small saphenous vein: (Diameter / reflux)
Saphenopopliteal junction:  1 mm, without reflux
Mid calf:                           2 mm, without reflux
Distal calf:                           Not well visualized
 
IMPRESSION:
1. No evidence of femoropopliteal deep venous thrombosis 
bilaterally.
2. Mild venous reflux of the right great saphenous vein at the 
proximal and
mid thigh as well as the proximal calf.
3. Moderate venous reflux of the left great saphenous vein at 
the level of the
knee.
4. No small saphenous venous reflux on either side.
 
Discharge labs:

___ 07:15AM BLOOD CRP-76.4*
___ 07:15AM BLOOD WBC-4.8 RBC-4.24* Hgb-13.3* Hct-41.0 
MCV-97 MCH-31.4 MCHC-32.4 RDW-15.5 RDWSD-55.0* Plt ___
___ 07:15AM BLOOD Glucose-73 UreaN-21* Creat-1.1 Na-140 
K-4.4 Cl-103 HCO3-26 AnGap-11

Discharge exam: 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose unremarkable. Oropharynx without visible 
lesion, MMM
CV: RRR, no m/r/g.  No JVD.
RESP: No increased wob, lung fields clear to auscultation 
bilaterally 
GI: Abdomen soft, ND. +BS. no TTP
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bl in all limbs
SKIN: no ___ edema. R pretibial area with white gauze surrounding 
area of ulcer without any strikethrough. small varicose veins on 
___ without e/o chronic venous stasis changes 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect
 
Brief Hospital Course:
Mr. ___ is a ___ male with with complex PMHX 
including POEMS syndrome on prednisone, methotrexate, 
hypogonadism, adrenal insufficiency, who presents for worsening
right pretibial ulcer. 

# Nonhealing RLE ulcer
# Concern for superimposed infection
# Severe bilateral PAD 
# Severe neuropathy 
Reported fever and leukocytosis is concerning for a possible 
infected ulcer. There is no evidence of surrounding cellulitis, 
however, patient reports that there was prior to presentation to 
the hospital. Additionally, reports transient improvement in 
ulcer during ciprofloxacin course prescribed outpatient and 
after debridement done by outpatient wound care. Difficulty in 
healing is likely related to immunosuppression and peripheral 
vascular disease (arterial > venous). On chart review, patient 
had CT angiogram of LEs in ___ that showed severe PAD and 
collateral flow to R foot, however, pretibial region where 
current ulcer is appeared to have adequate blood flow at that 
time. On admission, patient had elevated CRP and leukocytosis 
and was therefore started on IV vancomycin with improvement in 
both. BCx were drawn prior to abx and showed NGTD at time of 
discharge. Vascular surgery was consulted and recommended both 
ABI/PVR studies as well as venous reflux study to assess for 
degree of arterial and venous disease. Non invasive studies 
consistent with severe arterial disease R>L, and vascular 
surgery recommended CT angiogram for further 
diagnostic/therapeutic intervention. They additionally felt that 
ulcer needed to be derided, however, given size it would require 
sedation and would be best done during angiogram procedure. 
Given angiogram likely would not occur till following week, 
decision was made with aid of vascular surgery team to discharge 
patient on PO antibiotics and set up angiogram and debridement 
outpatient for following week. Definitive date and time for 
procedure pending at time of discharge. Given this, patient was 
discharged with 12 day supply of augmentin PO BID to ensure 
supply until date. Wound care nurse assisted with wound care 
recommendations during hospitalization as well. Patient 
instructed to continue prior wound care on discharge which he 
used to do at home BID, per his own preference.

# ___
Admission Cr of 1.3, up from baseline ~ 1.0. Suspect prerenal 
iso infection. Improved with fluids to 1.1. Home lisinopril, 
spironolactone initially held on admission, but restarted on 
hospital day 2.

TRANSITIONAL ISSUES:
[ ] Non healing ulcer of 3 month duration likely secondary to 
severe neuropathy and peripheral vascular disease. Plan for 
angiogram with vascular surgery outpatient, tentatively next 
week, for attempted revascularization and debridement 
[ ] Given concern for super imposed infection, patient 
discharged with 12 day supply of oral abx (augmentin PO BID) to 
ensure supply until date of procedure

>30 minutes spent on patient care and discharge care 
coordination 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 4 mg PO DAILY 
2. Testosterone Gel 1% Dose is Unknown  TP DAILY 
3. Lisinopril 10 mg PO BID 
4. Clindamycin 1% Solution 1 Appl TP BID 
5. Methotrexate 2.5 mg PO QTHUR 
6. Methotrexate 2.5 mg PO QWED 
7. Methotrexate 2.5 mg PO QWED 
8. Metoprolol Tartrate 12.5 mg PO DAILY 
9. Ranitidine 150 mg PO BID 
10. Simvastatin 20 mg PO QPM 
11. Spironolactone 25 mg PO DAILY 
12. Naproxen 500 mg PO Q12H 
13. Aspirin 325 mg PO DAILY 
14. Cyanocobalamin 100 mcg PO DAILY 
15. FoLIC Acid 1 mg PO DAILY 
16. Vitamin D ___ UNIT PO DAILY 
17. Pentoxifylline 400 mg PO TID 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 12 Days 

RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*24 Tablet Refills:*0 
2.  Testosterone Gel 1% 100 mg TP DAILY  
3.  Aspirin 325 mg PO DAILY  
4.  Clindamycin 1% Solution 1 Appl TP BID  
5.  Cyanocobalamin 100 mcg PO DAILY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Lisinopril 10 mg PO BID  
8.  Methotrexate 2.5 mg PO QTHUR  
9.  Methotrexate 2.5 mg PO QWED  
10.  Methotrexate 2.5 mg PO QWED  
11.  Metoprolol Tartrate 12.5 mg PO DAILY  
12.  Naproxen 500 mg PO Q12H  
13.  Pentoxifylline 400 mg PO TID  
14.  PredniSONE 4 mg PO DAILY  
15.  Ranitidine 150 mg PO BID  
16.  Simvastatin 20 mg PO QPM  
17.  Spironolactone 25 mg PO DAILY  
18.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non healing pre-tibial ulcer 
Ulcer with superimposed infection 
Peripheral vascular disease
POEMS syndrome

 
Discharge Condition:
Independent 

 
Discharge Instructions:
Mr. ___,

You came to the hospital with fever and pain at the site of your 
ulcer. We believe your ulcer has not been healing over the past 
3 months due to some combination of your neuropathy and 
peripheral vascular disease. We had the vascular surgeons see 
you and we did a study to assess the degree of your peripheral 
arterial disease. This study showed that you do have arterial 
disease, but it needs to be further evaluated with an angiogram 
which you previously had in ___. This procedure can be both 
diagnostic and therapeutic as the surgeons would intervene if 
they find a vessel that is amenable to this. 

We do believe that your ulcer is also infected at this time, as 
you did have some improvement with antibiotics. The vascular 
surgeons want to perform a debridement at the time of your 
angiogram. They are working on scheduling this procedure for 
your next week and will contact you with a date and time. The 
number and address to their clinic is ___, address: ___ B. ___ if you need to 
contact them as well. Please continue taking antibiotics until 
your procedure. 

It was a pleasure meeting you, we wish you all the best!
- Your ___ team 

 
Followup Instructions:
___